US09233979B2
To an 8 mL vial charged with nicotinaldehyde (30 mg, 0.278 mmol) was added (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (30 mg, 0.056 mmol) in methanol (1 ml) and acetic acid (0.1 ml). The vial was capped and the contents stirred at room temperature for 2 h. Sodium cyanoborohydride (10.5 mg, 0.167 mmol) was added and the reaction mixture stirred for an additional 16 h. The reaction mixture was diluted with DCM (1 mL), trisamine MP-resin (274 mg, 0.557 mmol) added, and the contents of the vial shaken at room temperature for 3 h. The resin was filtered, and washed through with DCM (1 mL). The volatiles were removed in vacuo to afford crude (R)-1-(1-phenylethyl)-3-(3-((pyridin-3-ylmethyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea, which was taken forward without purification. MS ESI calc'd. For C40H36N7O [M+H]+ 630. found 630.

reactant | nicotinaldehyde | 0.278 mmol, 30 mg | C(C1=CN=CC=C1)=O | C6H5NO
reactant | (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.056 mmol, 30 mg | NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N6O
reactant | Sodium cyanoborohydride | 0.167 mmol, 10.5 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | trisamine | C(C(CO)(CO)N)O | C4H11NO3
product | (R)-1-(1-phenylethyl)-3-(3-((pyridin-3-ylmethyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | C1(=CC=CC=C1)[C@@H](C)NC(=O)NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NCC=2C=NC=CC2 | C40H35N7O
